US08981084B2
(2-Phenylthiazol-4-yl)(4-(3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzoyl)piperazin-1-yl)methanone
This compound was synthesized from (2-phenylthiazol-4-yl)(piperazin-1-yl)methanone TFA salt and 3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzoic acid as described for example 37 step 3 (145 mg, yield 37%). 1H NMR (400 MHz, DMSO-d6) δ 8.22 (s, 1H), 8.16-8.14 (m, 1H), 8.10 (s, 1H), 7.96 (m, 2H), 7.74-7.72 (m, 2H), 7.52 (m, 3H), 3.89-3.69 (m, 6H), 3.48 (s, 2H). MS (ESI) m/z: Calculated for C24H18F3N5O3S: 513.11. found: 514.3 (M+H)+

reactant | (2-phenylthiazol-4-yl)(piperazin-1-yl)methanone TFA salt | OC(=O)C(F)(F)F.C1(=CC=CC=C1)C=1SC=C(N1)C(=O)N1CCNCC1
reactant | 3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzoic acid | FC(C1=NC(=NO1)C=1C=C(C(=O)O)C=CC1)(F)F | C10H5F3N2O3
product | (2-Phenylthiazol-4-yl)(4-(3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzoyl)piperazin-1-yl)methanone | yield 37% | C1(=CC=CC=C1)C=1SC=C(N1)C(=O)N1CCN(CC1)C(C1=CC(=CC=C1)C1=NOC(=N1)C(F)(F)F)=O | C24H18F3N5O3S
